US04379154
A 33% (weight/volume) solution of methylamine in ethanol (12 cc) is added dropwise, in the course of 15 minutes, to a solution of methyl 2-(pyrid-4-yl)-tetrahydrothiophen-2-carbodithioate (16 g) in ethanol (35 cc), kept at 20° C. The solution is subsequently stirred for 1 hour at a temperature of about 20° C. and is then cooled to 0° C. The resulting crystals are filtered off, washed twice with ethanol (30 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. A crystalline crude product (11 g) is thus obtained, which is redissolved in boiling ethanol (100 cc); decolourising charcoal (0.3 g) is added to the solution obtained, which is filtered hot, and the filtrate is then cooled for one hour at 0° C. The resulting crystals are filtered off, washed twice with ethanol (20 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. The product thus obtained (9 g) is chromatographed on neutral silica gel (20 g) contained in a column of diameter 1.7 cm. Elution is carried out with methylene chloride (1000 cc) and then with a methylene chloride/ethanol mixture (90/10 by volume; 250 cc), 250 cc fractions being collected. Fractions 1 to 5 are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 50° C. The product thus obtained (8 g) is dissolved in boiling ethanol (94 cc); decolourising charcoal (0.4 g) is added to the solution, which is filtered hot, and the filtrate is then cooled for 15 hours at a temperature of about 5° C. The resulting crystals are filtered off, washed twice with ethanol (14 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. The product thus obtained (6.9 g) is dissolved in boiling acetonitrile (75 cc) and the solution, to which decolourising charcoal (0.2 g) is added, is filtered hot and the filtrate is then cooled for 1 hour at 0° C. The resulting crystals are filtered off, washed with acetonitrile (7 cc) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 60° C. N-Methyl-2-(pyrid-4-yl)-tetrahydrothiophen-2-carbothioamide (5.9 g), melting at 178° C., is thus obtained.

reactant | methylamine | CN | CH5N
reactant | methyl 2-(pyrid-4-yl)-tetrahydrothiophen-2-carbodithioate | 16 g | N1=CC=C(C=C1)C1(SCCC1)C(=S)SC | C11H13NS3
reactant | charcoal | 0.3 g | C | CH4
reactant | charcoal | 0.4 g | C | CH4
reactant | acetonitrile | 75 cc | C(C)#N | C2H3N
reactant | charcoal | 0.2 g | C | CH4
solvent | ethanol | 12 cc | C(C)O | C2H6O
solvent | ethanol | 35 cc | C(C)O | C2H6O
solvent | ethanol | 94 cc | C(C)O | C2H6O
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | N-Methyl-2-(pyrid-4-yl)-tetrahydrothiophen-2-carbothioamide | 5.9 g | CNC(=S)C1(SCCC1)C1=CC=NC=C1 | C11H14N2S2
